US07547697B2
(1SR,8RS)-5-(2,2-Dimethyl-propyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6,-triene
light-yellow solid. MS (ESI): 217.2 (MH+). Prepared from bicyclo[2.2.1]heptan-2,3-dione, (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptan-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC(C)(C)C)=O | C9H19O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(2,2-Dimethyl-propyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6,-triene | CC(CC1=NN=C2C3CCC(C2=C1)C3)(C)C | C14H20N2
